US09084794B2
g) 2-bromo-2-(4-bromo-2-fluorophenyl)acetamide
To a suspension of 2-(4-bromo-2-fluorophenyl)acetamide (29.7 mmol) and N-bromosuccinimide (37.2 mmol) in anhydrous carbon tetrachloride (85 ml) was added 2,2′-azobis(2-methylpropionitrile) (1.487 mmol). The reaction mixture was heated at 85° C. for 4 days. The resulting suspension was concentrated in vacuo and the residue was taken into brine and then extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and decolorizing charcoal, filtered through a short pad of celite, and evaporated to a crude residue. Purification of the residue by flash chromatography (30% ethyl acetate in hexanes) afforded the title product (3.60 g, 38% yield) as a cream-colored solid. MS(ES)+m/e 310.1, 312.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 5.79 (s, 1 H) 7.48 (dd, J=8.59, 1.77 Hz, 1 H) 7.59 (br. s., 1 H) 7.61 (dd, J=9.85, 2.02 Hz, 1 H) 7.70 (t, J=8.21 Hz, 1 H) 7.91 (br. s., 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)acetamide | 29.7 mmol | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
reactant | N-bromosuccinimide | 37.2 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 1.487 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 85 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-2-(4-bromo-2-fluorophenyl)acetamide | 3.60 g, 38% yield | BrC(C(=O)N)C1=C(C=C(C=C1)Br)F | C8H6Br2FNO
